US03980643
In 150 ml of absolute benzene there were dissolved 1.95 g of 1-piperazineethanol and 14.2 g of p-toluene sulfonic acid. To the solution 2.89 g of cinnamic acid was added. The system was heated for 16 hours to reflux while removing the formed water. The reaction liquid was cooled, washed with 15% potassium carbonate and then extracted with 10% hydrochloric acid. After the aqueous layer was washed with ether, the system was rendered alkaline followed by extraction with ether. After the ethereal layer was dehydrated over a Glauber's salt, the ether was distilled off. The resultant residue was subjected to chromatography using silica gel to give a colorless transparent liquid. The liquid was converted into the hydrochloride thereof. Upon recrystallization from ethanol, 1-piperazineethanol cinnamate hydrochloride was obtained. The melting point of the product was 184°- 187°C. The yield was 53%.

reactant | 1-piperazineethanol | 1.95 g | N1(CCNCC1)CCO | C6H14N2O
reactant | p-toluene sulfonic acid | 14.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cinnamic acid | 2.89 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | hydrochloride | Cl | ClH
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-piperazineethanol cinnamate hydrochloride | yield was 53% | Cl.C(C=CC1=CC=CC=C1)(=O)OCCN1CCNCC1 | InChI=1S/C15H20N2O2.ClH/c18-15(7-6-14-4-2-1-3-5-14)19-13-12-17-10-8-16-9-11-17;/h1-7,16H,8-13H2;1H
